US04920120
7-[3-(Aminomethyl)-3-methyl-1-pyrrolidinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid
A mixture of 0.60 g (2.02 mmol) of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid, 0.28 g (2.45 mmol) of 3-methyl-3-pyrrolidinemethanamine, 0.61 g (6.06 mmol) of triethylamine, and 20 ml of acetonitrile was refluxed for four hours, then stirred at room temperature overnight. The precipitate was filtered, washed with ether, and dried to give 0.61 g of the title compound, mp 182°-184° C.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 2.02 mmol, 0.60 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C)=O)C(=O)O | C14H10F3NO3
reactant | 3-methyl-3-pyrrolidinemethanamine | 2.45 mmol, 0.28 g | CC1(CNCC1)CN | C6H14N2
reactant | triethylamine | 6.06 mmol, 0.61 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 7-[3-(Aminomethyl)-3-methyl-1-pyrrolidinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 0.61 g | NCC1(CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)C)F)C | C20H23F2N3O3
